US06214847B1
10,10-Bis[(2-fluoro-4-pyridinyl)methyl]-9(10H)-anthracenone (I) Two solutions are prepared. For one, 1.0 M lithium t-butoxide in THF (1.00 L, 1.00 mol) was added to a solution of anthrone (70.0 g, 0.36 mol) in THF (0.70 L) at 15-30° C. to form lithio anthrone. The second solution was prepared by mixing sodium iodide (45.0 g, 0.30 mol) VI-i (150.0 g, 0.73 mol) and THF (1.60 L) at 40° C. for 3 h to form a mixture of VI-i/VII-i. The lithio anthrone solution was added dropwise over 100 min at 40-50° C. to the iodide/mesylate solution. The reaction was aged for 1 h (the HPLC peak area of VII-i was <1%). The solution was washed with saturated aqueous brine (2×0.90 L). Volatiles were removed in vacuo and the residue was diluted with toluene (1.3 L). The solution was heated to 100° C., cooled to 90° C. and stirred with basic alumina (120 g) for 30 min. The solution was filtered through a Celite pad, concentrated by atmospheric distillation to 500 mL and cooled to 25° C. to crystallize I. Further crystallization was induced by the dropwise addition of n-heptane (0.60 L) followed by cooling to 0° C. for 2 h. The crystals were collected by filtration, washed with n-heptane (0.2 L) and dried at 60° C. in vacuo to yield 121 g of I (75% yield from anthrone, 92 HPLC wt % purity versus a reference standard).

reactant | sodium iodide | 0.30 mol, 45.0 g | [I-].[Na+]
reactant | lithio anthrone | [Li]C1=CC=CC=2CC3=CC=CC=C3C(C12)=O
reactant | iodide mesylate | [I-].S(C)(=O)(=O)[O-]
solvent | THF | 1.60 L | C1CCOC1 | C4H8O
product | anthrone | 75% yield | C1=CC=CC=2CC3=CC=CC=C3C(C12)=O | C14H10O
